US09145407B2
2-(3-Methylpyridazin-4-yl)-4-(trifluoromethyl)phenol
To a solution of 4-[2-methoxy-5-(trifluoromethyl)phenyl]-3-methylpyridazine (Preparation 43, 650 mg, 2.4 mmol) in N,N-dimethylformamide (18 mL) was added sodium thiomethoxide (850 mg, 12 mmol) and reaction mixture was heated to 70° C. for 4 hours. The reaction mixture was then cooled to 0° C., poured onto ice water (50 mL) and extracted with ethyl acetate (3×100 mL). The combined organics were washed with water (5×100 mL) and saturated aqueous sodium chloride solution (100 mL) then dried over sodium sulfate, filtered and concentrated in vacuo. The crude material was purified by silica gel column chromatography (20% ethyl acetate in heptane elution) to afford the title compound as a yellow solid (325 mg).

reactant | 4-[2-methoxy-5-(trifluoromethyl)phenyl]-3-methylpyridazine | 2.4 mmol, 650 mg | COC1=C(C=C(C=C1)C(F)(F)F)C1=C(N=NC=C1)C | C13H11F3N2O
reactant | sodium thiomethoxide | 12 mmol, 850 mg | C[S-].[Na+]
solvent | N,N-dimethylformamide | 18 mL | CN(C=O)C | C3H7NO
product | 2-(3-Methylpyridazin-4-yl)-4-(trifluoromethyl)phenol | 325 mg | CC=1N=NC=CC1C1=C(C=CC(=C1)C(F)(F)F)O | C12H9F3N2O
